US08389511B2
Methyl 4-{[1-(methoxycarbonyl)cyclopropyl]oxy}-2-methyl-5-nitrobenzoate
Methyl 4-fluoro-2-methyl-5-nitrobenzoate (43.0 g) was dissolved in tetrahydrofuran (300 ml), and thereto was added sodium hydride (55%, 9.60 g) at 0° C., and the mixture was stirred for 30 minutes. To the mixture was added dropwise a solution of methyl 1-hydroxy-1-cyclopropanecarboxylate (22.0 g) in tetrahydrofuran (300 ml) at 0° C., and the mixture was further stirred at room temperature for 3 hours. The mixture was cooled to room temperature, and water (100 ml) was added to the reaction mixture. The mixture was neutralized by addition of 1N aqueous hydrochloric acid solution, and extracted twice with ethyl acetate (300 ml). The organic layer was washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The resultant was purified by silica gel column (hexane/ethyl acetate=3:1) to give the title compound (58.0 g).

reactant | Methyl 4-fluoro-2-methyl-5-nitrobenzoate | 43.0 g | FC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C9H8FNO4
reactant | sodium hydride | 9.60 g | [H-].[Na+]
reactant | methyl 1-hydroxy-1-cyclopropanecarboxylate | 22.0 g | OC1(CC1)C(=O)OC | C5H8O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | Methyl 4-{[1-(methoxycarbonyl)cyclopropyl]oxy}-2-methyl-5-nitrobenzoate | 58.0 g | COC(=O)C1(CC1)OC1=CC(=C(C(=O)OC)C=C1[N+](=O)[O-])C | C14H15NO7
